US04067995
a. 2,4-dinitrobenzonitrile
A mixture of 21.2 grams (0.1 mole) of 2,4-dinitrobenzoic acid and 32.0 grams (0.21 mole) of benzenesulfonamide is stirred and heated in an oil bath at 205°-210° for 1 hour and then at 225° for 1 hour and allowed to cool to room temperature under a nitrogen atmosphere. The residue is shaken with methylene chloride and dilute NaOH solution and the methylene chloride layer separated and washed with water. The solvent is removed by distillation. There is obtained 6.05 grams (31%) of material melting at 88°-92°. Recrystallization from ethanol raises the melting point to 100°-2°. The infrared spectrum shows a weak nitrile band at 2200 cm-1.

reactant | 2,4-dinitrobenzoic acid | 0.1 mole, 21.2 grams | [N+](=O)([O-])C1=C(C(=O)O)C=CC(=C1)[N+](=O)[O-] | C7H4N2O6
reactant | benzenesulfonamide | 0.21 mole, 32.0 grams | C1(=CC=CC=C1)S(=O)(=O)N | C6H7NO2S
reactant | NaOH | [OH-].[Na+]
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 2,4-dinitrobenzonitrile | 6.05 grams, 31% | [N+](=O)([O-])C1=C(C#N)C=CC(=C1)[N+](=O)[O-] | C7H3N3O4
